US09102673B2
Step 5: tert-butyl 7-chloro-3-{2-[4-(trifluoromethoxy)phenoxy]ethyl}-1H-pyrrolo[2,3-c]pyridine-1-carboxylate
To a solution of tert-butyl 7-chloro-3-(2-hydroxyethyl)-1H-pyrrolo[2,3-c]pyridine-1-carboxylate (233 mg, 0.79 mmol) in PhMe (15 mL) was added 4-trifluoromethoxyphenol (0.15 mL, 1.2 mmol), triphenylphosphine (309 mg, 1.2 mmol), and diisopropylazodicarboxylate (0.23 mL, 1.2 mmol) at r.t. After 20 min, the mixture was concentrated in vacuo, and the crude material was purified on silica (gradient elution, 0-30% EtOAc/hexanes) to yield the title product (349 mg). HRMS (ESI) calc (M+H)+=457.1136. found 457.1133.

reactant | tert-butyl 7-chloro-3-(2-hydroxyethyl)-1H-pyrrolo[2,3-c]pyridine-1-carboxylate | 0.79 mmol, 233 mg | ClC=1N=CC=C2C1N(C=C2CCO)C(=O)OC(C)(C)C | C14H17ClN2O3
reactant | 4-trifluoromethoxyphenol | 1.2 mmol, 0.15 mL | FC(OC1=CC=C(C=C1)O)(F)F | C7H5F3O2
reactant | triphenylphosphine | 1.2 mmol, 309 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 1.2 mmol, 0.23 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | PhMe | 15 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 7-chloro-3-{2-[4-(trifluoromethoxy)phenoxy]ethyl}-1H-pyrrolo[2,3-c]pyridine-1-carboxylate | 349 mg | ClC=1N=CC=C2C1N(C=C2CCOC2=CC=C(C=C2)OC(F)(F)F)C(=O)OC(C)(C)C | C21H20ClF3N2O4
